US05306827
Preparation of Methyl 5-(p-chlorophenyl)pyrrole-2-carboxylate
A solution of sodium methoxide (12.73 mL of 4.38 M solution in methanol, 0.0556 mol) in methanol is cooled with an ice bath, treated with 5-(p-chlorophenyl)pyrrol-5-yl trichloromethyl ketone (6.0 g, 0.0186 mol), stirred for two hours, diluted with water and filtered to obtain a solid. The solid is washed with water and dried overnight in a vacuum dessicator to give the title product as a tan solid (4.23 g, mp 177°-179° C.) which is identified by 1HNMR spectral analysis.

reactant | sodium methoxide | 0.0556 mol, 4.38 M, 12.73 mL | C[O-].[Na+]
reactant | 5-(p-chlorophenyl)pyrrol-5-yl trichloromethyl ketone | 0.0186 mol, 6.0 g | ClC(Cl)(Cl)C(=O)C1(C=CC=N1)C1=CC=C(C=C1)Cl | C12H7Cl4NO
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | Methyl 5-(p-chlorophenyl)pyrrole-2-carboxylate | 4.23 g | ClC1=CC=C(C=C1)C1=CC=C(N1)C(=O)OC | C12H10ClNO2
